US07402683B2
(3R,4S)-3-[(2S)-2-Amino-3-methylbutanoyl]-4-methyl-2,5-pyrrolidinedione hydrochloride
A solution, cooled at 0° C., of 4.40 g (14.09 mmol) of (3R,4S)-3-[(2S)-2-(tert-butoxycarbonyl)amino-3-methylbutanoyl]-4-methyl-2,5-pyrrolidinedione (preparation: S. G. Davies, D. J. Dixon, J. Chem. Soc., Perkin Trans. 1, 1998, 17, 2635-2643) is admixed dropwise with 35 ml of 4N hydrochloric acid solution in 1,4-dioxane. When the addition is at an end the mixture is warmed to room temperature and stirred for 2 h, after which the mixture is concentrated under reduced pressure. The crude product can be used directly in the next stage. If desired the residue is treated with diethyl ether and the crystals precipitated are filtered off and dried under a high vacuum. Yield: 2.99 g of colorless crystals (86% of theory).

reactant | (3R,4S)-3-[(2S)-2-(tert-butoxycarbonyl)amino-3-methylbutanoyl]-4-methyl-2,5-pyrrolidinedione | 14.09 mmol, 4.40 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)[C@@H]1C(NC([C@H]1C)=O)=O)C(C)C | C15H24N2O5
reactant | hydrochloric acid | 4N, 35 ml | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | (3R,4S)-3-[(2S)-2-Amino-3-methylbutanoyl]-4-methyl-2,5-pyrrolidinedione hydrochloride | Cl.N[C@H](C(=O)[C@@H]1C(NC([C@H]1C)=O)=O)C(C)C | InChI=1S/C10H16N2O3.ClH/c1-4(2)7(11)8(13)6-5(3)9(14)12-10(6)15;/h4-7H,11H2,1-3H3,(H,12,14,15);1H/t5-,6+,7-;/m0./s1
